US07504517B2
Step E: Preparation of 1-amino-3-[2-(4-methoxyphenyl)ethyl]-4-(3,4-dimethylphenyl)-2-imidazolidinone hydrochloride:
To a solution of 1-[2-(4-methoxyphenyl)ethyl]-5-(3,4-dimethylphenyl)-2-imidazolidinone (2.0 g, 0.0062 mol) in glacial acetic acid (21 mL) is added a solution of sodium nitrite (0.58 g, 0.0084 mol) in H2O (2.8 mL) at room temperature over 2 minutes. The solution is stirred for 30 minutes and then cooled to 8° C. Zinc dust (0.84 g, 0.013 mol) is added at 8° C. to 18° C. in portions and the mixture is stirred two hours at 12° C. to 18° C. The reaction is cooled in an ice bath and dichloromethane (20 mL) and H2O (20 mL) are added. Then concentrated ammonium hydroxide (34 mL) is added slowly, maintaining the temperature below 25° C. The organic layer is separated, washed with brine, dried (Na2SO4), treated with 2 M HCl/ether (3.3 mL) and concentrated. The residue is heated in ethyl acetate (8 mL) and diluted slowly with hexanes (30 mL). The resulting solid is collected and triturated with 20% ether/hexanes (50 mL). The solid is collected and re-crystallized from ethyl acetate (8 mL) to afford 1.88 g (81% yield) of the desired compound. 1H NMR (CDCl3) δ 7.06 (m, 3H), 6.95 (d, J=8.1 Hz, 2H), 6.74 (d, J=8.1 Hz, 2H), 4.42 (m, 1H), 4.25 (m, 1H), 3.90 (m, 1H), 3.75 (s, 3H), 3.60 (m, 1H), 2.89 (m, 1H), 2.71 (m, 1H), 2.58 (m, 1H), 2.21 (s, 3H), 2.20 (s, 3H). MS 340 (MH+). Anal. calcd. for C20H25N3O2HCl: C, 63.91, H, 6.97; N, 11.18. Found: C, 63.71, H, 6.67; N, 11.18.

reactant | 1-[2-(4-methoxyphenyl)ethyl]-5-(3,4-dimethylphenyl)-2-imidazolidinone | 0.0062 mol, 2.0 g | COC1=CC=C(C=C1)CCN1C(NCC1C1=CC(=C(C=C1)C)C)=O | C20H24N2O2
reactant | sodium nitrite | 0.0084 mol, 0.58 g | N(=O)[O-].[Na+]
reactant | dichloromethane | 20 mL | ClCCl | CH2Cl2
reactant | ammonium hydroxide | 34 mL | [OH-].[NH4+]
solvent | acetic acid | 21 mL | C(C)(=O)O | C2H4O2
solvent | H2O | 2.8 mL | O | H2O
catalyst | Zinc | 0.013 mol, 0.84 g | [Zn] | Zn
solvent | H2O | 20 mL | O | H2O
product | 1-amino-3-[2-(4-methoxyphenyl)ethyl]-4-(3,4-dimethylphenyl)-2-imidazolidinone hydrochloride | 1.88 g, 81% yield | Cl.NN1C(N(C(C1)C1=CC(=C(C=C1)C)C)CCC1=CC=C(C=C1)OC)=O | InChI=1S/C20H25N3O2.ClH/c1-14-4-7-17(12-15(14)2)19-13-23(21)20(24)22(19)11-10-16-5-8-18(25-3)9-6-16;/h4-9,12,19H,10-11,13,21H2,1-3H3;1H
